* Copyright (c) Linear Technology Corp. 1998, 1999, 2000, 2001, 2002, 2003, 2004, 2005.  All rights reserved.
*
.subckt LTC2863-2 1 2 3 4 5 6 7 8 9 10 11 12
MZPDRV 9 N002 N003 N003 PDRV
MZNDRV N011 N007 N014 N014 NDRV
G1 0 vrefGR 12 6 1m
C1 vrefGR 0 100p Rpar=500
G3 0 VCCGR 12 6 10m
C4 VCCGR 0 100p Rpar=100
C8 N007 6 1p Rpar=500k
C6 12 9 1p Rpar=100meg
C5 9 6 1p Rpar=100meg
C17 N002 9 200f
C18 N011 N007 200f
S17 12 N009 N008 0 SDIN2
S18 N009 6 0 N008 SDIN2
C20 N009 6 1p Rpar=1g
C3 12 N002 1p Rpar=500k
D7 12 N007 DBIAS1
C22 N010 N009 200f Rpar=1.5Meg
G2 0 N005 vref N010 10m
D9 N005 N006 DPPD
D10 N012 N005 DNPU
D11 12 N002 DP
D12 N007 6 DN
D13 N002 6 DBIAS1
C27 0 N006 1p Rpar=1k
C24 N007 6 1p
C25 12 N002 1p
A2 N006 0 6 6 6 6 N002 6 OTA g=10m linear vlow=0 vhigh=1e308
A4 N012 0 12 12 12 12 N007 12 OTA g=10m linear vlow=-1e308 vhigh=0
G5 6 N002 VIlimUZ IlimUPZ 100m vto=0 dir=1
I1 0 IlimUPZ 15µ
S19 IlimUPZ 0 12 9 SIout
G12 0 VIlimDZ N014 6 3.8m
C31 VIlimDZ 0 100f Rpar=10k
I2 0 IlimDNZ 15µ
S22 IlimDNZ 0 9 6 SIout
G13 N007 12 VIlimDZ IlimDNZ 100m vto=0 dir=1
C9 N011 6 1p Rpar=10Meg
C11 N014 6 1p Rpar=2.6
C12 IlimUPZ 0 10p
C13 IlimDNZ 0 10p
G4 0 VIlimUZ 12 N003 1m
C14 VIlimUZ 0 100f Rpar=10k
S6 12 N007 SPDZ 0 SPullDwn
D2 12 N003 D1way
S5 12 N003 SRONZ 0 SREV
G14 0 SRONZ 12 9 20µ
C10 SRONZ 0 100f Rpar=1Meg
I3 0 SRONZ 6µ
D4 SRONZ 0 DLSR
G15 0 SPDZ 9 12 1µ
C15 SPDZ 0 100f Rpar=1Meg
I4 SPDZ 0 4µ
D6 SPDZ 0 DLSR
G16 0 N008 4 vref 1µ
C32 N008 0 1f Rpar=1Meg
C33 N005 0 1p Rpar=100
C34 12 N003 1p
C35 N010 9 .5p
G17 0 vref 12 0 1m
C19 vref 0 100p Rpar=500
G18 0 vref 6 0 1m
MZPDRV1 8 N015 N016 N016 PDRV
MZNDRV1 N023 N020 N025 N025 NDRV
C38 N020 6 1p Rpar=500k
C39 12 8 1p Rpar=100meg
C40 8 6 1p Rpar=100meg
C41 N015 8 200f
C42 N023 N020 200f
S31 12 N021 0 N008 SDIN2
S32 N021 6 N008 0 SDIN2
C43 N021 6 1p Rpar=1g
C44 12 N015 1p Rpar=500k
D16 12 N020 DBIAS1
C46 N022 N021 200f Rpar=1.5Meg
G6 0 N018 vref N022 10m
D17 N018 N019 DPPD
D18 N024 N018 DNPU
D19 12 N015 DP
D20 N020 6 DN
D21 N015 6 DBIAS1
C50 N020 6 1p
C51 12 N015 1p
A7 N019 0 6 6 6 6 N015 6 OTA g=10m linear vlow=0 vhigh=1e308
A8 N024 0 12 12 12 12 N020 12 OTA g=10m linear vlow=-1e308 vhigh=0
G20 6 N015 VIlimUY IlimUPY 100m vto=0 dir=1
I5 0 IlimUPY 15µ
S36 IlimUPY 0 12 8 SIout
G21 0 VIlimDY N025 6 3.8m
I6 0 IlimDNY 15µ
S37 IlimDNY 0 8 6 SIout
G22 N020 12 VIlimDY IlimDNY 100m vto=0 dir=1
C54 N025 6 1p Rpar=2.6
C55 IlimUPY 0 10p
C56 IlimDNY 0 10p
G23 0 VIlimUY 12 N016 1m
S38 12 N020 SPDY 0 SPullDwn
D22 12 N016 D1way
S39 12 N016 SRONY 0 SREV
G24 0 SRONY 12 8 20µ
C58 SRONY 0 100f Rpar=1Meg
I7 0 SRONY 6µ
D23 SRONY 0 DLSR
G25 0 SPDY 8 12 1µ
C59 SPDY 0 100f Rpar=1Meg
I8 SPDY 0 4µ
D24 SPDY 0 DLSR
C60 N018 0 1p Rpar=100
C61 12 N016 1p
C62 N022 8 .5p
D5 9 N011 DNout
D15 8 N023 DNout
C45 N023 6 1p Rpar=10Meg
C49 9 N011 .5p
C53 8 N023 .5p
C63 N003 9 1p
C64 N011 N014 1p
C65 N016 8 1p
C66 N023 N025 1p
A17 N026 0 N029 0 FailSafe 0 N032 0 OR trise=1n ref=.5 vlow=-1 vhigh=1 tripdt=1n
S45 12 1 N032 N033 SRO
S47 1 6 N039 N032 SRO
C67 12 1 500f
C68 1 6 500f
A19 N041 0 N042 0 0 0 Disable 0 OR trise=5n tripdt=2n
A20 Disable 0 0 0 0 0 N033 0 BUF ref=.5 trise=5n vlow=0 vhigh=1.5
A21 Disable 0 0 0 0 N039 0 0 BUF ref=.5 trise=5n vlow=-1.5 vhigh=0
G7 0 N040 11 6 .5m
G8 0 N040 10 6 .5m
C71 N040 0 100f Rpar=1k
A24 N040 0 0 0 0 0 N041 0 SCHMITT vt=26 vh=100m trise=10n
A25 0 N040 0 0 0 0 N042 0 SCHMITT vt=26 vh=100m trise=10n
A15 N027 N031 0 0 0 0 N029 0 SRFLOP trise=1n ref=.48 vlow=0 vhigh=1
A26 11 10 0 0 0 0 N030 0 SCHMITT vt=75m vh=0 trise=1n
A27 0 0 N030 0 N027 0 N028 0 DFLOP trise=10n tfall=1n
A28 N028 0 0 0 0 0 N027 0 BUF trise=76n tfall=5n
A29 10 11 0 0 0 0 N038 0 SCHMITT vt=75m vh=0 trise=1n
A30 0 0 N038 0 N031 0 N034 0 DFLOP trise=10n tfall=1n
A31 N034 0 0 0 0 0 N031 0 BUF trise=76n tfall=5n
A32 11 10 0 0 0 0 N026 0 SCHMITT vt=75m vh=0 trise=500u tfall=1n
D26 6 4 ESDL
D30 6 11 ESDH
D31 6 10 ESDH
C29 11 6 500f Rpar=112k
C36 10 6 500f Rpar=112k
D32 6 8 ESDH
D33 6 1 ESDL
D34 6 9 ESDH
C57 VIlimUY 0 100f Rpar=10k
C52 VIlimDY 0 100f Rpar=10k
A16 12 N036 0 0 0 0 FailSafe 0 SRFLOP trise=6u tfall=10n
A18 11 10 0 0 0 N036 0 0 SCHMITT vt=-62.5m vh=12.5m trise=10n
C2 0 N012 1p Rpar=1k
C7 0 N019 1p Rpar=1k
C16 0 N024 1p Rpar=1k
D1 12 6 DPOW
.model PDRV VDMOS(vto=-700m kp=400m mtriode=.3 rd=500m lambda=.1 subthres=5u  is=0 pchan)
.model NDRV VDMOS(vto=700m kp=210m mtriode=.7 rd=1.2 lambda=.05 subthres=5u is=0)
.model SDIN2 SW(Ron=1k Roff=1g vt=-100m vh=-200m)
.model DP D(Ron=150k Roff=1g vfwd=660m epsilon=500m)
.model DN D(Ron=400k Roff=1g vfwd=550m epsilon=900m)
.model ESDL D(Ron=60 Roff=1g vfwd=700m epsilon=500m vrev=10 revepsilon=500m)
.model ESDH D(Ron=60 Roff=1g vfwd=62 epsilon=1 vrev=62 revepsilon=1)
.model SIout  SW(Ron=20k Roff=1Meg vt=30 vh=-20)
.model Sdelay SW(Ron=1 Roff=1g vt=.5 vh=-.2)
.model SREV SW(level=2 Ron=.1 Roff=10Meg vt=1 vh=-.1 ilimit=50m oneway epsilon=100m)
.model D1way  D(Ron=10 Roff=10 vfwd=0 vrev=0 revilimit=1u)
.model SPullDwn SW(Ron=100 Roff=1g vt=1 vh=-1 ilimit=10m)
.model DLSR D(Ron=1 Roff=10Meg vfwd=2 epsilon=500m vrev=2 revepsilon=500m)
.model DPOW D(Ron=10 Roff=1g vfwd=1.6 epsilon=200m ilimit=3.3m)
.model SRO SW(Ron=125 Roff=1g vt=-100m vh=-200m ilimit=20m)
.model DPPD D(ron=200k Roff=100g vfwd=-160m epsilon=100m ilimit=10u)
.model DNPU D(ron=200k Roff=100g vfwd=-160m epsilon=100m ilimit=10u)
.model DBIAS1 D(Ron=100k Roff=1g vfwd=100m epsilon=100m ilimit=1u)
.model DNout D(Ron=1.1 Roff=1g vfwd=450m epsilon=500m)
.ends LTC2863-2
